US05631373
N-(4'-Chloro-5'-methyl-2'-nitrophenyl)glycine sodium salt.
To a stirred solution of 2-chloro-5-fluoro-4-nitrotoluene (0.605 g, 3.19 mmol, as prepared above) in DMF (3.0 mL) at 70° C., was added dropwise, a solution of sodium glycinate (0.310 g, 3.19 mmol, Aldrich, used as received) in water (3.0 mL). The resulting suspension was stirred overnight at 70° C. The suspension was cooled to room temperature and the resulting red solid was filtered, washed with chloroform (10 mL) and dried under vacuum to give 0.360 g (46%) pure (1H NMR) title compound as a red powder; 1H NMR (DMSO-d6): δ2.276 (s, 3H), 3.431 (d, 2H, J=4.2 Hz), 6.848 (s, 1H), 7.963 (s, 1H), 8.773 (s, 1H).

reactant | 2-chloro-5-fluoro-4-nitrotoluene | 3.19 mmol, 0.605 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5ClFNO2
reactant | sodium glycinate | 3.19 mmol, 0.310 g | NCC(=O)[O-].[Na+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | 3.0 mL | O | H2O
product | N-(4'-Chloro-5'-methyl-2'-nitrophenyl)glycine sodium salt | [Na+].ClC1=CC(=C(C=C1C)NCC(=O)[O-])[N+](=O)[O-] | InChI=1S/C9H9ClN2O4.Na/c1-5-2-7(11-4-9(13)14)8(12(15)16)3-6(5)10;/h2-3,11H,4H2,1H3,(H,13,14);/q;+1/p-1
